US07041696B2
Preparation of 2,6-dimethyl-benzoic acid 4-carboxy-3-({6-[(naphthalene-2-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carbonyl}-amino)-2-oxo-butyl ester (113):
To a solution of 2,6-dimethyl-benzoic acid 4-tert-butoxycarbonyl-3-({6-[(naphthalene-2-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carbonyl}-amino)-2-oxo-butyl ester, 112, (188 mg 0.27 mmol) is treated with solution of trifluoroacetic acid (10 ml) and dichloromethane (10 ml). The mixture is stirred for 2 hours and solvent is removed in vacuo. The residue is purified over silica (dichloromethane/methanol 95:5) to afford 120 mg of the desired product as a white solid. 1H NMR (CDCl3): δ 8.32 (d, J=5.9 Hz, 1H), 7.84 (m, 4H), 7.71 (m, 1H), 7.51 (m, 2H), 7.23 (dd, J-16.1, 8.1 Hz, 1H), 7.04 (t, J=7.4 Hz, 1H), 5.87 (m, 2H), 5.65 (m, 2H), 5.13–4.80 (m, 3H), 4.51 (m, 1H), 4.24 (m, 1H), 3.02–2.86 (m, 4H), 2.37 (s, 6H), 2.43–1.83 (m, 5H). 13C NMR (CDCl3): δ 200.4, 200.1, 174.2, 172.9, 171.6, 171.4, 169.3, 167.6, 135.9, 135.1, 132.7, 131.2, 130.8, 129.9, 129.3, 128.7, 128.4, 128.3, 127.9, 127.0, 126.1, 125.7, 123.9, 66.9, 62.3, 61.7, 59.4, 59.1, 53.2, 52.9, 50.8, 35.3, 34.4, 34.2, 33.3, 32.2, 27.4, 26.9, 20.1. (excess carbons due to rotamers). ESI MS 639.69 (M+H).

reactant | 2,6-dimethyl-benzoic acid 4-tert-butoxycarbonyl-3-({6-[(naphthalene-2-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carbonyl}-amino)-2-oxo-butyl ester | C(C)(C)(C)OC(=O)CC(C(COC(C1=C(C=CC=C1C)C)=O)=O)NC(=O)C1CCC2N1C(C(CC=CC2)NC(=O)C2=CC1=CC=CC=C1C=C2)=O | C40H45N3O8
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2,6-dimethyl-benzoic acid 4-carboxy-3-({6-[(naphthalene-2-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carbonyl}-amino)-2-oxo-butyl ester | 120 mg | C(=O)(O)CC(C(COC(C1=C(C=CC=C1C)C)=O)=O)NC(=O)C1CCC2N1C(C(CC=CC2)NC(=O)C2=CC1=CC=CC=C1C=C2)=O | C36H37N3O8
